US06433004B1
3-Allyl-3,3a,4,6a-tetrahydro-cyclopenta[b]furan-2-one
Analogously to the procedures of Example 1, the title compound was prepared from 0.31 g (2.5 mmol) of 3,3a,4,6a-tetrahydro-cyclopenta[b]furan-2-one, 2.5 ml of a 1 molar lithium bis-(trimethylsilyl)-amide solution in THF and 0.36 g (2.5 mmol) of allyl bromide in 7 ml of THF. Yield: 278 mg (67.8%) of a colourless oil. MS (DCI/NH3): m/e=182 [M+NH4+]

reactant | 3,3a,4,6a-tetrahydro-cyclopenta[b]furan-2-one | 2.5 mmol, 0.31 g | O1C2C(CC1=O)CC=C2 | C7H8O2
reactant | lithium bis-(trimethylsilyl)-amide | 1 molar | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | allyl bromide | 2.5 mmol, 0.36 g | C(C=C)Br | C3H5Br
reactant | NH3 | N | H3N
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 7 ml | C1CCOC1 | C4H8O
product | 3-Allyl-3,3a,4,6a-tetrahydro-cyclopenta[b]furan-2-one | C(C=C)C1C2C(OC1=O)C=CC2 | C10H12O2
